US06613942B1
Methyl 5-Cyano-1-naphthylcarboxylate:
A mixture of methyl 5-bromo-1-naphthylcarboxylate (5.2 g, 19 mmol) and CuCN (3.4 g, 38 mmol) in 100 mL anhydrous DMF was refluxed overnight. After cooling the reaction to 70° C., a solution of NaCN (2 g) in 50 mL water was added to destroy the copper complex. Ethyl acetate was added and the two layers were separated. The organic layer was washed with brine, dried over MgSO4, and concentrated. Silica gel column chromatography using hexane/ethyl acetate (5/1) gave the product (3.8 g, 95%).

reactant | methyl 5-bromo-1-naphthylcarboxylate | 19 mmol, 5.2 g | BrC1=C2C=CC=C(C2=CC=C1)C(=O)OC | C12H9BrO2
reactant | CuCN | 38 mmol, 3.4 g | C(#N)[Cu]
reactant | NaCN | 2 g | [C-]#N.[Na+]
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | water | 50 mL | O | H2O
product | Methyl 5-Cyano-1-naphthylcarboxylate | 3.8 g, 95% | C(#N)C1=C2C=CC=C(C2=CC=C1)C(=O)OC | C13H9NO2
